US04581461
Preparation of Bis(diethylamino)-1,1,3,3-Tetramethyldisiloxane
Diethylamine, 184 g. (2.50 mole) of 400 ml. of anhydrous ether were added to a one-liter multi-necked round bottom flask equipped with reflux condenser, pressure equalizing addition funnel, thermometer and stirrer, which was maintained under a positive pressure of argon. The solution was chilled with an ice water bath to 5°-10° C. during the dropwise addition of 100 g. (0.50 mole) of 1,3-dichloro-1,1,3,3,-tetramethyldisiloxane. After addition was completed the mixture was stirred overnight at room temperature (20°-25° C.). The mixture was then filtered and the filtrate was concentrated by rotary evaporation. The resulting residue was distilled at reduced pressure and yielded 81 g. (0.29 mole; 60% theoretical) of V (b.p. 75°-80° C., 2 mm. Hg.).

reactant | Diethylamine | C(C)NCC | C4H11N
reactant | 1,3-dichloro-1,1,3,3,-tetramethyldisiloxane | 0.50 mole | Cl[Si](O[Si](C)(C)Cl)(C)C | C4H12Cl2OSi2
solvent | ether | CCOCC | C4H10O
product | Bis(diethylamino)-1,1,3,3-Tetramethyldisiloxane | C(C)N(CC)[Si](O[Si](C)(C)N(CC)CC)(C)C | C12H32N2OSi2
